US07273868B2
A mixture of whole amount of 4-(3-chloro-4-methoxybenzylamino)-5-methoxycarbonyl-6-(4-hydroxypiperidin-1-yl)-2-methylsulfinylpyrimidine (prepared in the above (5)), 5,6,7,8-tetrahydroimidazo[1,2-a]pyrazine 73 mg, triethylamine 0.083 ml and N,N-dimethylacetamide 4 ml is stirred at 110° C. for 4 hours. After cooling the reaction mixture is diluted with a 10% aqueous citric acid solution and washed with ethyl acetate. The organic layer is extracted with a 10% aqueous citric acid solution. The water layer is made basic with sodium hydrogen carbonate and extracted with ethyl acetate. The ethyl acetate layer is washed, dried and concentrated in vacuo. The residue is separated with silica gel chromatography (solvent; chloroform:methanol=100:1→50:1), and then crystallized from a mixture of ethyl acetate, methanol and isopropyl ether to give 4-(3-chloro-4-methoxybenzylamino)-5-methoxycarbonyl-6-(4-hydroxypiperidin-1-yl)-2-(5,6,7,8-tetrahydroimidazo[1,2-a]pyrazin-7-yl)pyrimidine as a colorless crystalline powder 20 mg.

reactant | 4-(3-chloro-4-methoxybenzylamino)-5-methoxycarbonyl-6-(4-hydroxypiperidin-1-yl)-2-methylsulfinylpyrimidine | ClC=1C=C(CNC2=NC(=NC(=C2C(=O)OC)N2CCC(CC2)O)S(=O)C)C=CC1OC | C20H25ClN4O5S
reactant | 5,6,7,8-tetrahydroimidazo[1,2-a]pyrazine | 73 mg | N=1C=CN2C1CNCC2 | C6H9N3
reactant | triethylamine | 0.083 ml | C(C)N(CC)CC | C6H15N
reactant | N,N-dimethylacetamide | 4 ml | CN(C(C)=O)C | C4H9NO
solvent | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
product | 4-(3-chloro-4-methoxybenzylamino)-5-methoxycarbonyl-6-(4-hydroxypiperidin-1-yl)-2-(5,6,7,8-tetrahydroimidazo[1,2-a]pyrazin-7-yl)pyrimidine | 20 mg | ClC=1C=C(CNC2=NC(=NC(=C2C(=O)OC)N2CCC(CC2)O)N2CC=3N(CC2)C=CN3)C=CC1OC | C25H30ClN7O4
